US07205302B2
2-{4-[N-(3-chloro-5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butyloxy}acetic acid
218 mg of 2-{4-[N-(3-chloro-5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butyloxy}acetic acid tert-butyl ester was dissolved in 2 ml of 1,4-dioxane and 2 ml of 1N hydrochloric acid was added, followed by stirring at 80° C. for one hour. The mixture was further stirred at 110° C. for 4 hours. The reaction solution was neutralized with 1N sodium hydroxide solution and then extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then the solvent was evaporated under reduced pressure. The resulting crude crystal was washed with a solvent of hexane-ethyl acetate (4:1) to obtain 120 mg of the desired product as a gray crystal having a melting point of 136 to 138° C.

reactant | 2-{4-[N-(3-chloro-5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butyloxy}acetic acid tert-butyl ester | 218 mg | C(C)(C)(C)OC(COCCCCN(C(C)C)C1=NC(=C(N=C1Cl)C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H36ClN3O3
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2-{4-[N-(3-chloro-5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butyloxy}acetic acid | 120 mg | ClC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)N(C(C)C)CCCCOCC(=O)O | C25H28ClN3O3
